* Z:\home\victor\Documents\Projekt\teensyBenchPower\Hardware\LtSpice Simulations\teensySMPS.asc
V§usb USB 0 5.3
L1 Vin Vsw+ 50µ
D1 Vsw+ out+ MBR735
C1 out+ 0 47µ
V2 PWM+ 0 PULSE(0 3.3 0 0.5n 0.5n 1.5u 5u)
R§load+ out+ 0 400
M2 Vsw+ N001 0 0 IRLHS6242
R2 PWM+ N004 1k
Q1 N003 N004 0 0 BC546B
Q2 N002 N003 0 0 BC546B
R4 N003 Vin 1k
R5 Vin N002 1.5k
R6 N002 0 150k
Q3 Vin N002 N001 0 2N4401
Q4 0 N002 N001 0 2N4403
Q5 Vin N007 N006 0 BCW68F
R9 N007 0 820
Q6 N007 N005 USB 0 BC556B
R8 N005 N006 1k
Rsense USB N006 1.3
C2 Vin 0 2.2µ
M1 Vsw- N010 0 0 IRLHS6242
L2 Vin Vsw- 50µ
D2 N008 0 MBR735
C3 Vsw- N008 10µ
R§load- out- 0 400
L3 N008 out- 50µ
C4 out- 0 47µ
V1 PWM- 0 PULSE(0 3.3 2.5u 0.5n 0.5n 1.5u 5u)
R1 PWM- N012 1k
Q7 N011 N012 0 0 BC546B
Q8 N009 N011 0 0 BC546B
R3 N011 Vin 1k
R7 Vin N009 1.5k
R10 N009 0 150k
Q9 Vin N009 N010 0 2N4401
Q10 0 N009 N010 0 2N4403
C5 Vin 0 2.2µ
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 100m 0 1m
* USB in
* ~450-500mA current limiter
* Teensy PWM out
* 3.3V to 5V level shifter
* Totem-pole mosfet driver
* Basic boost converter
* = 0,7 / I_max
.backanno
.end
